US09120789B2
Tert-butyl 2-fluoro-4-hydroxyphenylcarbamate
4-Amino-3-fluorophenol (10.61 g, 83.5 mmol) was added to a molten mixture of Boc2O (18.29 g, 83.8 mmol) and InCl3 (188 mg, 0.85 mmol) at 35° C. The black mixture was stirred at 35° C. for 2 hours, during which time it turned into a thick black oil. The mixture was then diluted with EtOAc (200 mL) and H2O (200 mL) and stirring was continued for 10 minutes. The layers were separated and the organic layer was washed with H2O (3×200 mL), dried (MgSO4), filtered and concentrated to dryness. The resulting black oil was redissolved in CH2Cl2 (50 mL) and loaded onto a silica gel column. Elution with 5→7% EtOAc in CH2Cl2 furnished the title compound as a light yellow, crystalline solid.

reactant | 4-Amino-3-fluorophenol | 83.5 mmol, 10.61 g | NC1=C(C=C(C=C1)O)F | C6H6FNO
reactant | Boc2O | 83.8 mmol, 18.29 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
solvent | H2O | 200 mL | O | H2O
product | Tert-butyl 2-fluoro-4-hydroxyphenylcarbamate | FC1=C(C=CC(=C1)O)NC(OC(C)(C)C)=O | C11H14FNO3
